US03991066
EXAMPLE 1: 1,3,4,9b-Tetrahydro-5-methyl-2H-indeno[1,2-c]pyridine-2-acetic acid methyl ester [process variant a)]
A solution of 15.3 g of bromoacetic acid methyl ester in 50 cc of dimethyl formamide is added dropwise at 60° while stirring to a mixture of 18.5 g of 1,3,4,9b-tetrahydro-5-methyl-2H-indeno[1,2-c]pyridine and 41.4 g of potassium carbonate in 200 cc of dimethyl formamide. The reaction mixture is allowed to react at 60° for 1 hour, is poured on ice water and is extracted thrice with chloroform. The extracts are dried and completely concentrated by evaporation, the residue is dissolved in 50 cc of methanol, and the calculated amount of hydrochloric acid in ethanol is added. After the addition of ether, 1,3,4,9 b-tetrahydro-5-methyl-2H-indeno [1,2-c]pyridine-2-acetic acid methyl ester crystallizes as hydrochloride and is recrystallized twice from ethanol for further purification. The hydrochloride has a M.P. of 184°-185°.

reactant | bromoacetic acid methyl ester | 15.3 g | COC(CBr)=O | C3H5BrO2
reactant | 1,3,4,9b-tetrahydro-5-methyl-2H-indeno[1,2-c]pyridine | 18.5 g | CC=1C2=CC=CC=C2C2CNCCC21 | C13H15N
reactant | potassium carbonate | 41.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 50 cc | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 200 cc | CN(C=O)C | C3H7NO
product | 1,3,4,9b-Tetrahydro-5-methyl-2H-indeno[1,2-c]pyridine-2-acetic acid methyl ester | COC(CN1CC2C(CC1)=C(C1=CC=CC=C12)C)=O | C16H19NO2
